US06660744B1
2 mL of an 6 N aqueous solution of hydrochloride were added to the mixture of tert-butyl N-(3-{3-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]-1-azetanyl}-3-oxopropyl)-N-(2-hydroxyethyl)carbamate (0.040 g, 0.000070 mol). in acetone (5 mL). The mixture was stirred at 45° C. for 1.5 hours. The solvent was removed under removed pressure. Water (10 mL) was added to the residue, the mixture was lyophilized. The residue was purified by RP-HPLC (Hypersilprep HS C18, 8 μm, 250×21.1 mm; 5%-100% over 35 min with 0.1 M ammonium acetate, 21 mL/min) to yield 1-{3-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]-1-azetanyl}-3-[(2-hydroxyethyl)amino]-1-propanone (0.003 g, 0.00001 mol).

reactant | hydrochloride | Cl | ClH
reactant | tert-butyl N-(3-{3-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]-1-azetanyl}-3-oxopropyl)-N-(2-hydroxyethyl)carbamate | 0.000070 mol, 0.040 g | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)OC2=CC=CC=C2)C2CN(C2)C(CCN(C(OC(C)(C)C)=O)CCO)=O | C30H35N7O5
solvent | acetone | 5 mL | CC(=O)C | C3H6O
product | 1-{3-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]-1-azetanyl}-3-[(2-hydroxyethyl)amino]-1-propanone | 0.00001 mol, 0.003 g | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)OC2=CC=CC=C2)C2CN(C2)C(CCNCCO)=O | C25H27N7O3
